US05250551
3rd step: 5-[4-(3-chloro benzyloxy) phenyl] 2-tetrazole propanenitrile (Ia)
To a solution made tepid of 10-2 mole of 5-[4-(3-chloro benzyloxy) phenyl] tetrazole in 60 ml of n-propanol containing 10-2 mole of KOH, 1.2×10-2 mole of propionitrile bromide (IIa) is added and the reaction mixture is heated to reflux for 25 hours. After concentration by evaporating the solvent, the residue is taken up in ether, the etherated solution is washed twice with 20 ml of 0.5N aqueous NaOH, then with water, dried and concentrated. After recrystallization in methanol, the expected compound is obtained.

reactant | 5-[4-(3-chloro benzyloxy) phenyl] tetrazole | 10-2 mole | ClC=1C=C(COC2=CC=C(C=C2)C2=NN=NN2)C=CC1 | C14H11ClN4O
reactant | n-propanol | 10-2 mole, 60 ml | C(CC)O | C3H8O
reactant | KOH | [OH-].[K+]
reactant | propionitrile bromide | 1.2×10-2 mole | [Br-].C(CC)#N
product | 5-[4-(3-chloro benzyloxy) phenyl] 2-tetrazole propanenitrile | ClC=1C=C(COC2=CC=C(C=C2)C=2N=NN(N2)CCC#N)C=CC1 | C17H14ClN5O
